US08334308B2
Step 1: (2′-chloro-3-methylbiphenyl-4-yl)methanol
To a solution (4-bromo-2-methylphenyl)methanol (1 eq.) from Benzyl nitrile III.1 (Step 1) and 2-chlorophenylboronic acid (1.2 eq.) in n-propanol (0.1M) was added palladium acetate/triphenyl phosphine (1:3; 0.05 eq.) and aqueous Na2CO3 (2M; 3 eq.). The mixture was stirred at 80° C. for 2 h, cooled to room temperature, poured in water and extracted with EtOAc. The organic extract was washed with, brine, dried over MgSO4 filtered and concentrated. Purification by column chromatography on silica gel (Combi-Flash by ISCO), eluting with Hex/EtOAc (0 to 75% in 30 min) to afforded the desired compound.

reactant | (4-bromo-2-methylphenyl)methanol | 1 eq. | BrC1=CC(=C(C=C1)CO)C | C8H9BrO
reactant | 2-chlorophenylboronic acid | 1.2 eq. | ClC1=C(C=CC=C1)B(O)O | C6H6BClO2
reactant | Na2CO3 | 2M, 3 eq. | C(=O)([O-])[O-].[Na+].[Na+]
solvent | n-propanol | 0.1M | C(CC)O | C3H8O
solvent | water | O | H2O
catalyst | palladium acetate triphenyl phosphine | 0.05 eq. | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | (2′-chloro-3-methylbiphenyl-4-yl)methanol | ClC1=C(C=CC=C1)C1=CC(=C(C=C1)CO)C | C14H13ClO
